US20010018525A1
step 3 4-{2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy} benzoic acid
The title compound was prepared as a light green solid (0.073 g, 62%) from 4-{2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′; 3′,1″]terphenyl-2′-yloxy]-ethoxy} benzoic acid, methyl ester using a procedure similar to step 4 of example 165; dec. >65° C.; 1H NMR (400 MHz, DMSO-d6) δ1.16-1.30 (m, 8H), 1.44-1.53 (m, 2H), 1.67-1.76 (m, 2H), 3.20-3.26 (m, 2H), 3.56-3.60 (m, 2H), 3.72-3.76 (m, 2H), 4.12 (t, J=7.0 Hz, 2H), 6.37 (dd, J=0.66, 3.1 Hz, 1H), 6.66-6.70 (m, 2H), 6.94-6.99 (m, 1H), 7.06-7.10 (m, 1H), 7.32 (d, J=3.1 Hz, 1H), 7.38-7.52 (m, 6H), 7.57-7.60 (m, 2H), 7.67 (t, J=1.8 Hz, 2H), 7.76-7.80 (m, 2H), 7.88 (s, 2H), 8.55 (t, J=5.7 Hz, 1H), 12.54 (broad s, 1H); IR (KBr) 3420, 2920, 1680, 1600, 1260, 1160 cm−1; mass spectrum [(−)APCI], m/z 747 (M−H)−; Anal. Calcd. for C44H42Cl2N2O5: C, 70.49; H, 5.65; N, 3.74, Found: C, 70.12; H, 6.01; N, 3.44.

reactant | 4-{2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′; 3′,1″]terphenyl-2′-yloxy]-ethoxy} benzoic acid, methyl ester | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCOC1=CC=C(C(=O)OC)C=C1 | C45H44Cl2N2O5
reactant | KBr | [K+].[Br-]
product | 4-{2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy} benzoic acid | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCOC1=CC=C(C(=O)O)C=C1 | C44H42Cl2N2O5
